US07670591B2
2-[6-(Dimethylamino)pyridin-3-yl]-1,3-benzoxazol-6-ol
5-(6-Methoxy-1,3-benzoxazol-2-yl)-N,N-dimethylpyridin-2-amine (31 mg, 0.12 mmol) was mixed with hydrogen bromide (48% aq., 2 mL) and a crystal of tetrabutylammonium bromide was added. The reaction was run at 120° C. for 5 minutes in a microwave reactor. The reaction mixture was added to sodium bicarbonate (sat. aq.) and the solid was collected. The solid was then dissolved in CH2Cl2/ethyl acetate, dried (MgSO4), filtered and evaporated in vacuo, giving the title compound (6 mg) as a purple solid. 1H NMR (400 MHz, CD3OD) δ ppm 8.83 (d, 1H) 8.17 (dd, 1H) 7.44 (d, 1H) 7.02 (d, 1H) 6.75-6.88 (m, 2H) 3.19 (s, 6H); MS m/z (M+H) 256; (M−H) 254.

reactant | 5-(6-Methoxy-1,3-benzoxazol-2-yl)-N,N-dimethylpyridin-2-amine | 0.12 mmol, 31 mg | COC1=CC2=C(N=C(O2)C=2C=CC(=NC2)N(C)C)C=C1 | C15H15N3O2
reactant | hydrogen bromide | 2 mL | Br | BrH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | tetrabutylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-[6-(Dimethylamino)pyridin-3-yl]-1,3-benzoxazol-6-ol | 6 mg | CN(C1=CC=C(C=N1)C=1OC2=C(N1)C=CC(=C2)O)C | C14H13N3O2
